US05705456
a) 5-Azido-3-(3-trifluoromethoxyphenyl)thiazolidin-4-one
Sodium azide (2.78 g) was added to a solution of 5-chloro-3-(3-trifluoromethoxyphenyl)thiazolidin-4-one (7.50 g) in DMF (50 ml). After 2 hours the mixture was poured into water, extracted with ethyl acetate (x3), dried (MgSO4) and concentrated in vacuo to give the sub-title compound (5.40 g), which was used directly in the next step.

reactant | Sodium azide | 2.78 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-chloro-3-(3-trifluoromethoxyphenyl)thiazolidin-4-one | 7.50 g | ClC1C(N(CS1)C1=CC(=CC=C1)OC(F)(F)F)=O | C10H7ClF3NO2S
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-Azido-3-(3-trifluoromethoxyphenyl)thiazolidin-4-one | 5.40 g | N(=[N+]=[N-])C1C(N(CS1)C1=CC(=CC=C1)OC(F)(F)F)=O | C10H7F3N4O2S
